US06353111B1
A solution of (E)-3-cyclohexyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-acrylic acid methyl ester (1.8 g, 4.6 mmol) in ethanol (20 mL) was treated with a 1N aqueous sodium hydroxide solution (15 mL). The solution was heated at 45-50° C. For 15 h, at which time, thin layer chromatography analysis of the mixture indicated the absence of starting material. The reaction mixture was then concentrated in vacuo to remove ethanol, and the residue was diluted with water (40 mL) and extracted with diethyl ether (1×50 mL) to remove any neutral impurities. The aqueous layer was acidified with a 1N aqueous hydrochloric acid solution. The resulting acid was extracted into ethyl acetate (2×75 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford (E)-3-cyclohexyl-2-(4-(methanesulfonyl)-3-(trifluoromethyl)-phenyl)-acrylic acid (1.74 g, 99%) as a white solid: mp 62-64° C.; EI-HRMS m/e calcd for C17H19F3O4S (M+H)+377.1034, found 377.1041.

reactant | (E)-3-cyclohexyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-acrylic acid methyl ester | 4.6 mmol, 1.8 g | COC(\C(=C\C1CCCCC1)\C1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F)=O | C18H21F3O4S
reactant | sodium hydroxide | 1N, 15 mL | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (E)-3-cyclohexyl-2-(4-(methanesulfonyl)-3-(trifluoromethyl)-phenyl)-acrylic acid | 1.74 g, 99% | C1(CCCCC1)/C=C(/C(=O)O)\C1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F | C17H19F3O4S
